US06319920B1
(S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]ethylamine (24 grams, 0.117 mole) was dissolved in dichloroethane (300 ml) and sodium triacetoxyborohydride (37.2 grams, 0.176 mole) was added. After stirring for 5 minutes N-methanesulfonylpiperidine-4-carboxaldehyde (22.4 grams, 0.117 mole) was added and the mixture was stirred for another 2 hours. 5% sodium carbonate (600 ml) was added and the mixture was extracted with dichloromethane. Evaporation of the solvent gave an oil which was recrystallized from ether to give (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine (28 grams, 63%), m.p. 99-101° C.

reactant | (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]ethylamine | 0.117 mole, 24 grams | O1CCC2=C1C=CC(=C2)C[C@H](C)NCC | C13H19NO
reactant | sodium triacetoxyborohydride | 0.176 mole, 37.2 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-methanesulfonylpiperidine-4-carboxaldehyde | 0.117 mole, 22.4 grams | CS(=O)(=O)N1CCC(CC1)C=O | C7H13NO3S
reactant | sodium carbonate | 600 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 300 ml | ClC(C)Cl | C2H4Cl2
product | (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine | 28 grams, 63% | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCN(CC2)S(=O)(=O)C | C20H32N2O3S
